US06469004B1
Step b: Preparation of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide
A solution comprised of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid, O-cyclopropylmethylhydroxylamine hydrochloride (1.25 equiv.), benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (1.25 equiv.), and diisopropylethylamine (3 equiv.) in 1:1 v/v tetrahydrofuran-dichloromethane is stirred for 30 minutes. The reaction mixture is concentrated in vacuo and the residue is taken up into diethyl ether. The ether phase is washed with dilute aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, and brine, is dried (MgSO4), and is concentrated in vacuo to afford the desired product. The product may be recrystallized with an appropriate solvent like methanol or chloroform if further purification is necessary.

reactant | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid | FC1=C(C(=CC2=C1NC=N2)C(=O)O)NC2=C(C=C(C=C2)I)C | C15H11FIN3O2
reactant | O-cyclopropylmethylhydroxylamine hydrochloride | 1.25 equiv. | Cl.C1(CC1)CON
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.25 equiv. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | diisopropylethylamine | 3 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran dichloromethane | O1CCCC1.ClCCl
product | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide | C1(CC1)CONC(=O)C1=CC2=C(NC=N2)C(=C1NC1=C(C=C(C=C1)I)C)F | C19H18FIN4O2
